US09120762B2
(Z)-5-(2-hydroxy-3-{N′-[3-methyl-5-oxo-1-(5,6,7,8-tetrahydro-naphthalen-2-yl)-1,5-dihydro-pyrazol-4-ylidene]-hydrazino}-phenyl)-furan-2-carboxylic acid choline
(Z)-5-(2-hydroxy-3-{N′-[3-methyl-5-oxo-1-(5,6,7,8-tetrahydro-naphthalen-2-yl)-1,5-dihydro-pyrazol-4-ylidene]-hydrazino}-phenyl)-furan-2-carboxylic acid (1.1 g, 2.4 mmol) was dissolved in 19 mL of the mixture solvent of ethyl acetate and ethanol (V/V=12:7), then the reaction mixture was heated to 40° C., and stirred for 15 minutes to form a marron suspension. The reaction mixture was added slowly with 1 M solution of choline in methanol (2.4 mL, 2.4 mmol) to form a black solution until the solid was disappeared. The reaction solution was added with 1 mL of water, then cooled down to 35° C. and reacted for 3 hours, then stirred for another 72 hours at room temperature. The orange solid was precipitated, filtered, then the filter cake was washed with ethyl acetate (5 mL×3) and dried to obtain the title compound (Z)-5-(2-hydroxy-3-{N′-[3-methyl-5-oxo-1-(5,6,7,8-tetrahydro-naphthalen-2-yl)-1,5-dihydro-pyrazol-4-ylidene]-hydrazino}-phenyl)-furan-2-carboxylic acid choline (620 mg, yield: 46.0%) as a orange solid.

reactant | (Z)-5-(2-hydroxy-3-{N′-[3-methyl-5-oxo-1-(5,6,7,8-tetrahydro-naphthalen-2-yl)-1,5-dihydro-pyrazol-4-ylidene]-hydrazino}-phenyl)-furan-2-carboxylic acid | 2.4 mmol, 1.1 g | OC1=C(C=CC=C1N\N=C/1\C(=NN(C1=O)C1=CC=2CCCCC2C=C1)C)C1=CC=C(O1)C(=O)O | C25H22N4O5
reactant | (Z)-5-(2-hydroxy-3-{N′-[3-methyl-5-oxo-1-(5,6,7,8-tetrahydro-naphthalen-2-yl)-1,5-dihydro-pyrazol-4-ylidene]-hydrazino}-phenyl)-furan-2-carboxylic acid bis-(choline) | OCC[N+](C)(C)C.OCC[N+](C)(C)C.OC1=C(C=CC=C1N\N=C/1\C(=NN(C1=O)C1=CC=2CCCCC2C=C1)C)C1=CC=C(O1)C(=O)O
reactant | methanol | 2.4 mmol, 2.4 mL | CO | CH4O
reactant | water | 1 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | C(C)O | C2H6O
product | (Z)-5-(2-hydroxy-3-{N′-[3-methyl-5-oxo-1-(5,6,7,8-tetrahydro-naphthalen-2-yl)-1,5-dihydro-pyrazol-4-ylidene]-hydrazino}-phenyl)-furan-2-carboxylic acid choline | 620 mg, yield: 46.0% | OCC[N+](C)(C)C.OC1=C(C=CC=C1N\N=C/1\C(=NN(C1=O)C1=CC=2CCCCC2C=C1)C)C1=CC=C(O1)C(=O)O | InChI=1S/C25H22N4O5.C5H14NO/c1-14-22(24(31)29(28-14)17-10-9-15-5-2-3-6-16(15)13-17)27-26-19-8-4-7-18(23(19)30)20-11-12-21(34-20)25(32)33;1-6(2,3)4-5-7/h4,7-13,26,30H,2-3,5-6H2,1H3,(H,32,33);7H,4-5H2,1-3H3/q;+1/b27-22-;
